US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-1-phenyl-1H-pyrazole-5-carboxamide (CJS 3725)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 1-phenyl-1H-pyrazole-5-carbonyl chloride to afford the title compound (15 mg, 17%). 1H-NMR (δ, ppm, DMSO-d6): 6.47 (d, 1H, HPy,5, J=6.0 Hz), 6.89 (d, 1H, Harom, J=8.0 Hz), 7.06 (d, 1H, Hpyrrazole, J=2.1 Hz), 7.37-7.49 (m, 7H, Harom), 7.53 (d, 1H, Harom, J=8.0 Hz), 7.78-7.81 (m, 2H, Hpyrrazole+Py,6), 10.64 (s, 1H, NHamide), 11.16 (s, 1H, NHPy3), 11.37 (s, 1H, NHPy2). HRMS (EI): m/z [M+H] calcd for C22H17N6O3: 413.1362; found: 413.1366.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 1-phenyl-1H-pyrazole-5-carbonyl chloride | C1(=CC=CC=C1)N1N=CC=C1C(=O)Cl | C10H7ClN2O
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-1-phenyl-1H-pyrazole-5-carboxamide | 15 mg, 17% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(=O)C2=CC=NN2C2=CC=CC=C2)N1 | C22H16N6O3
